US08981084B2
A suspension of 2-bromoacetophenone (5 g, 0.0251 mol), potassium thiocyanate (8.6 g, 0.088 mol) and potassium iodide (0.25 g, 0.0015 mol) in dry DMF (25 mL) was heated to 80° C. for 2 h. The reaction mixture was concentrated to dryness under reduced pressure and the residue was dissolved in glacial acetic acid (25 mL) and 50% aqueous H2SO4 was added to it. The reaction mixture was heated to 100° C. for 10 min. The reaction mixture was poured in ice water and the precipitate formed was filtered and dried under reduced pressure to get 4-phenylthiazol-2(3H)-one (3.3 g, yield 75%) as brown solid, which was carried through without further purification.

reactant | 2-bromoacetophenone | 0.0251 mol, 5 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium thiocyanate | 0.088 mol, 8.6 g | [S-]C#N.[K+]
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 0.0015 mol, 0.25 g | [I-].[K+]
product | 4-phenylthiazol-2(3H)-one | 3.3 g, yield 75% | C1(=CC=CC=C1)C=1NC(SC1)=O | C9H7NOS
